** sch_path: /foss/designs/comparator_alt/schematic/tb_2stage.sch
**.subckt tb_2stage
x1 CKL VIN2 VDD VOUT2 VIN1 VOUT1 CK 0 comparator_2stage
**** begin user architecture code


.param sw_stat_global   = 0
.param sw_stat_mismatch = 0
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical




* ===== stimulus =====
Vvdd  VDD  0 3.6
Vvin1 VIN1 0 1.080000
Vvin2 VIN2 0 1.800000
Vck   CK   0 PULSE(0 3.6 2n   100p 100p 8n 20n)
Vckl  CKL  0 PULSE(0 3.6 3.1n 100p 100p 5n 20n)





* SPICE component: <name> <node+> <node-> <value>
* V means voltage source, M is MOSFET, X is a subcircuit
* Node 0 is global ground
* PWL is a linear sweep from t=0, V=1.64, to t=1u, V=1.66, +/- 10 mV
* PULSE(v_low v_high initial_delay t_rise t_fall up_time period)
*
*
* Above .control is static netlist, below is simulation scripting
* let creates a vector (including length 1), set creates a shell var
* svt = sigma (standard deviation) of V threshold
* _pre = preamp input pair transistors, XM1P/XM2P
* _sa = strongarm input pair, XM8/XM10
* Random seed so that our results are reproducible exactly
* Create a vector with the number of slots equal to the number of runs
* Keep track of the sum of offsets and the sum of squares of offsets
* It lets us calculate variance later
*
* A new .tran opens a new plot, so keep track of the current plot
* Loop the following for each run of the Monte Carlo
* Print run number to terminal
* Clear s_up and s_dn so a failed run doesn't use last run's value
*
* alter changes an already-loaded variable. @=device instance parameter,
* m=MOSFET, x1.x1=preamp_dyn, m1p=transistor, m0=MOSFET inside nfet_03v3,
* [delvto]=parameter (delta v threshold), s_gauss(0)=random distribution
* centered on 0 with std. dev. 1, multiply by sigma to scale it right
* Start the up sweep of vin1 (Vvin1 denotes voltage of vin1)
* Transient simulation with 10ps steps ending at 1us
* Define t_up with a nonsense value so we know if it didn't change
* measure, let t_up=time when comparator flips (hits 1.5V)
* fall=LAST excludes the precharge to VDD; we want the most recent flip
* if there wasn't a flip, t_up would stay at -1 ^
* measure, let vin_up be the voltage at t_up that caused the flip ^
* save it in a shell variable so it doesn't get erased with the plot
* destroy the plot so we only have to remember our s_up voltage
* Do it again sweeping down to eliminate systematic bias
*
*
*
*
*
*
*
*
* Get back to the home plot where our variables are
* $?s_up asks if it exists (0 or 1), so this checks if both exist
* Calculate offset with average of up and down sweep offsets
* Add it to the vector of all the offsets
* Increase number of good runs, since we made it to this point
* Add to the sum of offsets and the sum of their squares
*
* Print the outputs for every run
*
* If we missed, set the value to -999 so it's clearly wrong
* Also give a warning of a miss in the terminal
*
* Increase run number
*
* Back to homeplot (a little bit of redundancy)
* mu is the mean
* sig calculates variance, mean of squares minus square of the mean
* and then take the square root of that number
* Convert to mV for readability
*
* echo to print results to terminal
*
*
*
*
* wrdata writes to a plain text file for plotting elsewhere
* Single bracket (>) creates a file, double (>>) appends



* per-DEVICE sigma(Vth) = A_VT / sqrt(W*L), A_VT = 6.2 mV*um (NMOS, per-device convention)
* pair mismatch is sqrt(2)x larger, but MC produces that automatically
* preamp XM1P/XM2P: 4u x 16 x 1u  = 64 um^2 -> 0.78 mV
* latch  XM8/XM10:  8u x 1u       =  8 um^2 -> 2.19 mV

**** end user architecture code
**.ends

* expanding   symbol:  comparator_alt/schematic/comparator_2stage.sym # of pins=8
** sym_path: /foss/designs/comparator_alt/schematic/comparator_2stage.sym
** sch_path: /foss/designs/comparator_alt/schematic/comparator_2stage.sch
.subckt comparator_2stage CKL VIN2 VDD VOUT2 VIN1 VOUT1 CK VSS
*.ipin CK
*.iopin VDD
*.iopin VSS
*.ipin VIN1
*.ipin VIN2
*.opin VOUT2
*.opin VOUT1
*.ipin CKL
x1 VDD DIP1 DIP2 VIN2 VIN1 CK VSS preamp_dyn
x2 VDD CKL VOUT2 VOUT1 DIP2 DIP1 VSS strongarm_2
.ends


* expanding   symbol:  comparator_alt/schematic/preamp_dyn.sym # of pins=7
** sym_path: /foss/designs/comparator_alt/schematic/preamp_dyn.sym
** sch_path: /foss/designs/comparator_alt/schematic/preamp_dyn.sch
.subckt preamp_dyn VDD DIP2 DIP1 VIN2 VIN1 CK VSS
*.ipin VIN1
*.ipin VIN2
*.iopin VDD
*.iopin VSS
*.opin DIP1
*.opin DIP2
*.ipin CK
XM1P DIP1 VIN1 TAIL VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XMT1 TAIL CK VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2P DIP2 VIN2 TAIL VSS nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XMP1 DIP1 CK VDD VDD pfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XMP2 DIP2 CK VDD VDD pfet_03v3 L=0.3u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  comparator_alt/schematic/strongarm_2.sym # of pins=7
** sym_path: /foss/designs/comparator_alt/schematic/strongarm_2.sym
** sch_path: /foss/designs/comparator_alt/schematic/strongarm_2.sch
.subckt strongarm_2 VDD CK VOUT2 VOUT1 VIN1 VIN2 VSS
*.opin VOUT1
*.opin VOUT2
*.ipin VIN1
*.ipin VIN2
*.ipin CK
*.iopin VDD
*.iopin VSS
XM1 VOUT2 VOUT1 net1 VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VOUT1 VOUT2 VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VOUT1 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net3 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 net1 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 VOUT2 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 VOUT2 VOUT1 VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 net1 VIN2 net2 VSS nfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 VOUT1 VOUT2 net3 VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 net3 VIN1 net2 VSS nfet_03v3 L=1u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 net2 CK VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.temp 27
.options reltol=1e-4 vntol=1e-9
.control
save v(vout1) v(vout2) v(ck)
tran 0.01n 20n
meas tran tdelay trig v(ck) val=1.800000 rise=1 targ v(vout1) val=1.800000 fall=1
meas tran v1late FIND v(vout1) at=7.5n
meas tran v2late FIND v(vout2) at=7.5n
echo RESULT tt 3.6 0.30 exp=1 delay=$&tdelay v1late=$&v1late v2late=$&v2late
.endc
.end
